US07420001B2
To 748 mg (2 mmol) of 5-iodo-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester was added 1.42 g (10 mmol) of iodomethane, 553 mg (4 mmol) of K2CO3 and 10 mL of DMF. The mixture was stirred at room temperature overnight. The reaction mixture was washed with brine and extracted with ethyl acetate. The combined ethyl acetate layers were washed with brine. Removal of the solvent in vacuo gave 790 mg (100% yield) 5-iodo-4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester as a pale brown oil.

reactant | 5-iodo-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 2 mmol, 748 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)I)O | C14H15IO4
reactant | iodomethane | 10 mmol, 1.42 g | IC | CH3I
reactant | K2CO3 | 4 mmol, 553 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-iodo-4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 790 mg, 100% yield | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)I)OC | C15H17IO4
